Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.17589117097
[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-6.411786183209999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],1.93145792849
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],5.0459506822
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.13968263712
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.661574835939
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:12].[H:1][C:2]([H:3])[C:9]#[C:10][H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-0.91179306245
[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]#[C:3].[O:4][O:5][H:6],4.11617126713
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],3.33235440922
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6][H:7])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.78653340298
[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-0.98940211381
[H:12].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.3306980641
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6][H:7].[O:1][O:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[H:11],7.222299364149999
[H:9].[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.81484315469
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-7.2933400106600015
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.68680339847
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],3.48405711586
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-4.440954365540001
[C:1][C:2]([H:3])=[C:4]1[O:5][C:6]([H:7])([H:8])[O:9]1>>[C:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[O:9],-0.3806860413099999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],4.08281322877
[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-4.69405410682
[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.26826059945
[H:8].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.99674927522
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.07673621206
[C:7]([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.19634356555
[H:1][C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3](#[C:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2],4.15187358859
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-7.07049666383
[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-7.07257105
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.55513020327
[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-1.3237532255600002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.43262295775
